US04367238
Sodium hydride (50%, 1 g), ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate (6.2 g) and methyl iodide (4.1 g) were treated in a similar manner to that of Example 10-(5) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]propionate (6.1 g).

reactant | Sodium hydride | 1 g | [H-].[Na+]
reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate | 6.2 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C19H19NO4
reactant | methyl iodide | 4.1 g | CI | CH3I
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]propionate | 6.1 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C20H21NO4
